US09167821B2
2-{3-[2-(1-{[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}-N-cyclopropylbenzamide (I-27)
To a solution of 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}benzoic acid (105 mg) in dichloromethane (10 ml) are added, at room temperature, cyclopropanamine (11 mg), 4-dimethylaminopyridine (2 mg) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (37 mg). The mixture is stirred at room temperature for 3 hours and then admixed with water. The aqueous phase is removed and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The residue is purified by chromatography. This gives 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}-N-cyclopropylbenzamide (78 mg).

reactant | 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}benzoic acid | 105 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C(=O)O)C=CC=C1)F | C25H23F4N5O4S
reactant | cyclopropanamine | 11 mg | C1(CC1)N | C3H7N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 37 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-{3-[2-(1-{[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}-N-cyclopropylbenzamide | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C(=O)NC2CC2)C=CC=C1)F | C28H28F4N6O3S
